US09284315B2
(10) Preparation of tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate
tert-butyl 4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate (0.104 g, 0.241 mmol) and 6-methoxy-3-pyridine boronic acid (40.7 mg, 0.266 mmol) were dissolved in toluene (6 mL) and ethanol (2 mL), and to the system added tetrakis(triphenylphosphine)palladium (5 mg) and 2N sodium carbonate solution (0.36 mL), reacted under reflux under nitrogen for 16 h, cooled to room temperature, filtered and the organic layer was concentrated under reduced pressure and dissolved in 30 mL of dichloromethane, followed by washing sequentially with water and saturated brine, dried over anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (ethyl acetate:petroleum ether=2:1) to give 75 mg of the product.

reactant | tert-butyl 4-(9-chloro-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 0.241 mmol, 0.104 g | ClC1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCN(CC3)C(=O)OC(C)(C)C)=O)C | C21H26ClN5O3
reactant | 6-methoxy-3-pyridine boronic acid | 0.266 mmol, 40.7 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | sodium carbonate | 2N, 0.36 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(9-(6-methoxypyridin-3-yl)-3-methyl-2-oxo-3,4-dihydropyrimido[5,4-c][1,5]naphthyridin-1(2H)-yl)piperidine-1-carboxylate | 75 mg | COC1=CC=C(C=N1)C1=NC=2C3=C(C=NC2C=C1)CN(C(N3C3CCN(CC3)C(=O)OC(C)(C)C)=O)C | C27H32N6O4
